US08541589B2
A mixture of methyl 2-(5-bromopyrimidin-4-ylthio)acetate (220 mg, 0.84 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-naphthonitrile (237 mg, 0.85 mmol) palladium tetrakis triphenylphoshine (46 mg, 0.04 mmol) and aqueous sodium carbonate solution (2M, 1.5 mL, 3 mmol) in dioxane (3 mL) was heated to 100° C. for 5 hours. The reaction mixture was allowed to cool to room temperature and aqueous sodium hydroxide solution added (1M, 30 mL). The mixture was washed with ethyl acetate (2×20 mL), and the aqueous layer acidified to pH 4 resulting in formation of a precipitate which was isolated by filtration and dried under vacuum to yield 2-(5-(4-cyanonaphthalen-1-yl)pyrimidin-4-ylthio)acetic acid (143 mg, 53%).

reactant | methyl 2-(5-bromopyrimidin-4-ylthio)acetate | 0.84 mmol, 220 mg | BrC=1C(=NC=NC1)SCC(=O)OC | C7H7BrN2O2S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-naphthonitrile | 0.85 mmol, 237 mg | CC1(OB(OC1(C)C)C1=CC=C(C2=CC=CC=C12)C#N)C | C17H18BNO2
reactant | sodium carbonate | 3 mmol, 2M, 1.5 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 2-(5-(4-cyanonaphthalen-1-yl)pyrimidin-4-ylthio)acetic acid | 143 mg, 53% | C(#N)C1=CC=C(C2=CC=CC=C12)C=1C(=NC=NC1)SCC(=O)O | C17H11N3O2S
